US08124610B2
4-(3-(4-Chlorobenzyl)-1-methyl-1H-pyrazol-5-ylamino)-N-(thiazol-2-yl)benzenesulfonamide
To a mixture of 4-iodo-N-thiazol-2-yl-benzenesulfonamide (100 mg, 0.3 mmol, 1.0 equiv), tris(dibenzylideneacetone)dipalladium(0) (10 mg, 0.01 mmol, 0.04 equiv), 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (19 mg, 0.033 mmol, 0.12 equiv) and 5-(4-chloro-benzyl)-2-methyl-2H-pyrazole-3-ylamine (80 mg, 0.36 mmol, 1.2 equiv) in 4.0 mL of anhydrous 1,4-dioxane was added sodium tert-butoxide (100 mg, 0.90 mmol, 3.0 equiv). The vial was capped, and the reaction mixture was heated 30 min at 150° C. in the microwave. The crude reaction mixture was filtered through celite then concentrated in vacuo. The residue was taken up in chloroform-methanol, concentrated onto celite, and purified via automated flash chromatography (12 g SiO2, gradient from hexanes to ethyl acetate). The appropriate fractions were collected, concentrated in vacuo, then purified further via reverse phase HPLC. The appropriate fractions were lyophilized from water-acetonitrile to afford the product as a white solid (9 mg, 6%).

reactant | 4-iodo-N-thiazol-2-yl-benzenesulfonamide | 0.3 mmol, 100 mg, 1.0 equiv | IC1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1 | C9H7IN2O2S2
reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.033 mmol, 19 mg, 0.12 equiv | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | 5-(4-chloro-benzyl)-2-methyl-2H-pyrazole-3-ylamine | 0.36 mmol, 80 mg, 1.2 equiv | ClC1=CC=C(CC=2C=C(N(N2)C)N)C=C1 | C11H12ClN3
reactant | sodium tert-butoxide | 0.90 mmol, 100 mg, 3.0 equiv | CC(C)([O-])C.[Na+]
solvent | 1,4-dioxane | 4.0 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.01 mmol, 10 mg, 0.04 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(3-(4-Chlorobenzyl)-1-methyl-1H-pyrazol-5-ylamino)-N-(thiazol-2-yl)benzenesulfonamide | 9 mg, 6% | ClC1=CC=C(CC2=NN(C(=C2)NC2=CC=C(C=C2)S(=O)(=O)NC=2SC=CN2)C)C=C1 | C20H18ClN5O2S2
